US08017630B2
(2S)-2-[2-(4-Dimethylamino-4-phenylcyclohexyl)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester hydrochloride (Example 34)
(2S)-2-[2-(4-Dimethylamino-4-phenylcyclohexyl)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester (271 mg, 0.587 mmol) was dissolved in ethyl methyl ketone, and chlorotrimethylsilane (0.111 ml, 0.88 mmol) was added. After 1 h ether (30 ml) was added to the mixture and the mixture was stirred for a further 10 min. The hydrochloride was filtered off and obtained as a colourless solid in a yield of 96% (278 mg) with an m.p. of 239-241° C.

reactant | (2S)-2-[2-(4-Dimethylamino-4-phenylcyclohexyl)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester | 0.587 mmol, 271 mg | COC([C@H](CC1=CNC2=CC=CC=C12)NC(CC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O)=O | C28H35N3O3
reactant | chlorotrimethylsilane | 0.88 mmol, 0.111 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | ether | 30 ml | CCOCC | C4H10O
solvent | ethyl methyl ketone | CC(=O)CC | C4H8O
product | (2S)-2-[2-(4-Dimethylamino-4-phenylcyclohexyl)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester hydrochloride | yield of 96% | Cl.COC([C@H](CC1=CNC2=CC=CC=C12)NC(CC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O)=O | InChI=1S/C28H35N3O3.ClH/c1-31(2)28(22-9-5-4-6-10-22)15-13-20(14-16-28)17-26(32)30-25(27(33)34-3)18-21-19-29-24-12-8-7-11-23(21)24;/h4-12,19-20,25,29H,13-18H2,1-3H3,(H,30,32);1H/t20?,25-,28?;/m0./s1
